US04567199
A mixture of (±)-cis-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylic acid (1.20 g), anhydrous potassium carbonate (2.0 g), 2-chloro-4-fluorobenzyl bromide (1.10 g), and dry acetone (30 ml) was stirred for a period of 2 hours at the ambient temperature (ca 25° C.) and kept at that temperature for a further 18 hours. After diluting the mixture with diethyl ether (300 ml) the resultant mixture was washed with dilute aqueous sodium carbonate solution and dried over anhydrous magnesium sulphate. The solvents were evaporated and the residual oil purified by preparative thick layer chromatography using silica gel plates and chloroform eluent, to give 2-chloro-4-fluorobenzyl(±)-cis-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylate (1.31 g) as a colourless oil.

reactant | (±)-cis-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylic acid | 1.20 g | Cl\C(=C/[C@H]1C([C@H]1C(=O)O)(C)C)\C(F)(F)F | C9H10ClF3O2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-fluorobenzyl bromide | 1.10 g | ClC1=C(CBr)C=CC(=C1)F | C7H5BrClF
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-chloro-4-fluorobenzyl(±)-cis-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylate | 1.31 g | Cl\C(=C/[C@H]1C([C@H]1C(=O)OCC1=C(C=C(C=C1)F)Cl)(C)C)\C(F)(F)F | C16H14Cl2F4O2
